US05434186
A mixture of 0.144 g (0.70 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one, 0.371 g (0.70 mmol) of 2-[(6-bromohexyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester, 0.479 g (3.47 mmol) of anhydrous granular potassium carbonate and 13.1 mL of 2-butanone was stirred and refluxed for 18 hr. The resulting slurry was filtered with suction and the solids washed thoroughly with ethyl acetate. The filtrate and washes were combined and concentrated in vacuo and the residue was purified by flash chromatography on 75 g of silica gel, eluting with 3:1 hexane-ethyl acetate, giving 0.37 g (80.6%) of 2-[6-[(2,3-dihydro-4-oxo-8-propyl-4H-1-benzopyran-7-yl)oxy]hexyloxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester as a white solid, mp 58°-59.5° C. A mixture of 0.331 g (0.50 mmol) of this ester in 6 mL of THF and 6 mL of water was treated with 64.7 mg (1.54 mmol) of lithium hydroxide monohydrate and the resulting mixture was stirred for 25.5 hr at room temperature, before being acidified with 17 mL of 3N aqueous sulfuric acid. Work-up with ethyl acetate in the usual manner gave a crude product which was recrystallized from hexane-ethyl acetate affording 0.242 g (79.7%) of the title compound as a white solid, mp 169°-172° C.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 0.70 mmol, 0.144 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 2-[(6-bromohexyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester | 0.70 mmol, 0.371 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)OCCCCCCBr)=O | C27H33BrO6
reactant | potassium carbonate | 3.47 mmol, 0.479 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 13.1 mL | CC(CC)=O | C4H8O
product | 2-[6-[(2,3-dihydro-4-oxo-8-propyl-4H-1-benzopyran-7-yl)oxy]hexyloxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester | 0.37 g, 80.6% | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)OCCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)=O | C39H46O9
